US06962922B2
Step 1: Methyl 4-[(5-iodo-2-methylamino-benzoylamino)-methyl]-benzoate
To 19.6 g (44.9 mmol) 4-(6-Iodo-1-methyl-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)-benzoic acid methyl ester and 23.2 g (179.6 mmol) di-isopropyl ethylamine in 200 ml DMF is added bis-triphenylphosphine palladium di-chloride (1.0 g, catalytic) followed by CuI (0.4 g, catalytic). 7.3 g (62.9 mmol) 3-phenyl-propyne is added and the mixture is heated to 70° C. for 6 hrs. The mixture is allowed to cool to room temperature and stir overnight. Water is added and the mixture stirred 30 minutes. Filter and dry under reduced pressure. Solid from EtOAc.

reactant | 4-(6-Iodo-1-methyl-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)-benzoic acid methyl ester | 44.9 mmol, 19.6 g | COC(C1=CC=C(C=C1)CN1C(N(C2=CC=C(C=C2C1=O)I)C)=O)=O | C18H15IN2O4
reactant | di-isopropyl ethylamine | 179.6 mmol, 23.2 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-phenyl-propyne | 62.9 mmol, 7.3 g | C1(=CC=CC=C1)CC#C | C9H8
reactant | Water | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
catalyst | CuI | 0.4 g | [Cu]I
product | Methyl 4-[(5-iodo-2-methylamino-benzoylamino)-methyl]-benzoate | IC=1C=CC(=C(C(=O)NCC2=CC=C(C(=O)OC)C=C2)C1)NC | C17H17IN2O3
